* Z:\mnt\design.r\spice\examples\3240-3.3.asc
XU1 0 IN OUT N001 N002 IN LTC3240-3.3
C1 N001 N002 1µ
C2 OUT 0 4.7µ
V1 IN 0 3
Rload OUT 0 30
.tran 2m startup
.lib LTC3240-3.3.sub
.backanno
.end
